### PR TITLE
Refactor proofs and fix docstrings

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 1]
```diff
@@ -206,10 +212,10 @@ lemma rdist_zero_eq_half_ent [IsFiniteMeasure μ] [IsProbabilityMeasure μ'] :
               measurability
               measurability
     simp [entropy_def, h]
-  simp [rdist_def, entropy_const (0 : G), aux]
+  simp only [rdist_def, aux, entropy_const (0 : G), zero_div, sub_zero]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: Why this change?

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 2]
```diff
@@ -489,7 +496,7 @@ lemma condRuzsaDist_eq_sum {X : Ω → G} {Z : Ω → S} {Y : Ω' → G} {W : Ω
     all_goals {
       rw [Measure.map_apply ‹_›]
       convert measure_empty
-      simp [← FiniteRange.range]
+      simp only [← FiniteRange.range, Set.preimage_compl, Set.preimage_range, Set.compl_univ]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:499]: Similarly, why this change?

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 3]
```diff
@@ -606,18 +615,21 @@ lemma condRuzsaDist'_prod_eq_sum {X : Ω → G} {Y : Ω' → G} {W W' : Ω' →
...
     d[X ; μ # Y | ⟨W', W⟩; μ']
       = ∑ w in FiniteRange.toFinset W, (μ' (W ⁻¹' {w})).toReal * d[X ; μ # Y | W' ; (μ'[|W ← w])] := by
-  have : d[X ; μ # Y | ⟨W', W⟩; μ'] = ∑ w in ((FiniteRange.toFinset W') ×ˢ FiniteRange.toFinset W), (μ' ((fun a => (W' a, W a)) ⁻¹' {w})).toReal * d[X ; μ # Y ; μ'[|(fun a => (W' a, W a)) ⁻¹' {w}]] := by
+  have : d[X ; μ # Y | ⟨W', W⟩; μ'] = ∑ w in ((FiniteRange.toFinset W') ×ˢ FiniteRange.toFinset W),
+    (μ' ((fun a => (W' a, W a)) ⁻¹' {w})).toReal * d[X ; μ # Y ; μ'[|(fun a => (W' a, W a)) ⁻¹' {w}]] := by
     rw [condRuzsaDist'_eq_sum hY (hW'.prod_mk hW)]
     apply Finset.sum_subset
     . intro (t, t')
-      simp
+      simp only [FiniteRange.mem_iff, Prod.mk.injEq, Finset.mem_product, forall_exists_index,
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:623]: This is a good change

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 1 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: Ops, I didn't realise that `simp` was used as a finishing tactic.

Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: I'm still learning what's the optimal way to clean the code. For now the rule I'm following is "if a `simp` is non-finishing, then substitute it with `simp only [...]`"

Am I wrong?

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 2 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:499]: Again, I'm refactoring according to the heuristic "if a `simp` is non-finishing, then substitute it with `simp only [...]`"

Am I wrong? Are there other heuristics I can follow? Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 1 above)
Comment (YaelDillies) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: Yes, that's inaccurate.

simp is a "flexible output" tactic, namely it can leave the locations (goal or hypotheses) it touches in wildly different states depending on what's exactly in the simp set. This means that the tactics following it should be "flexible input" tactics, like `simp`, `ring`, `measurability`... This is to ensure that proofs don't break so easily when the simp set is refactored. So simp should be squeezed when in front of "rigid input" tactics, like `refine`, `apply`, `exact`, `rw`

There is however no reason to squeeze it when it's in front of flexible input tactics.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 2 above)
Comment (YaelDillies) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:498]: See https://github.com/teorth/pfr/pull/206#discussion_r1611105505

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 1 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: I see. Thank you very much for the explanation. I'm going to update this PR accordingly as soon as I find the time.

Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:215]: Thank you very much!

**Comment by pitmonticone** [comment]
@YaelDillies Reverted the inadequate `simp only`.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 4]
```diff
@@ -152,19 +152,25 @@ lemma ProbabilityTheory.IndepFun.rdist_eq [IsFiniteMeasure μ]
   rw [h_prod, entropy_def, Measure.map_map (measurable_fst.sub measurable_snd) (hX.prod_mk hY)]
   rfl
 
-/-- $d[X;Y] ≤ H[X]/2 + H[Y]/2$. -/
-lemma rdist_le_avg_ent {X : Ω → G} {Y : Ω' → G} [FiniteRange X] [FiniteRange Y] (hX: Measurable X) (hY: Measurable Y) (μ : Measure Ω := by volume_tac) (μ' : Measure Ω' := by volume_tac) [IsProbabilityMeasure μ] [IsProbabilityMeasure μ'] :
+/-- `d[X ; Y] ≤ H[X]/2 + H[Y]/2`. -/
+lemma rdist_le_avg_ent {X : Ω → G} {Y : Ω' → G} [FiniteRange X] [FiniteRange Y] (hX: Measurable X)
+  (hY: Measurable Y) (μ : Measure Ω := by volume_tac) (μ' : Measure Ω' := by volume_tac)
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:157]: If you want to reformat things, here's how statements should look like:
```suggestion
lemma rdist_le_avg_ent {X : Ω → G} {Y : Ω' → G} [FiniteRange X] [FiniteRange Y] (hX : Measurable X)
    (hY : Measurable Y) (μ : Measure Ω := by volume_tac) (μ' : Measure Ω' := by volume_tac)
```

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 5]
```diff
@@ -795,16 +806,19 @@ lemma condRuzsaDist_of_copy {X : Ω → G} (hX : Measurable X) {Z : Ω → S} (h
...
+    ((A ×ˢ B : Finset (S × T)): Set (S × T))ᶜ = 0 := by
     simp only [A, B]
     apply Measure.prod_of_full_measure_finset
     all_goals {
       rw [Measure.map_apply ‹_›]
       convert measure_empty
-      simp [← FiniteRange.range]
+      simp only [Finset.coe_union, ← FiniteRange.range, Set.compl_union, Set.preimage_inter,
+        Set.preimage_compl, Set.preimage_range, Set.compl_univ, Set.inter_empty]
       measurability
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:822]: I consider `measurability` to be flexible input

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean [hunk 6]
```diff
@@ -49,14 +49,14 @@ variable [Nonempty H]
 
 instance discreteUniform.isProbabilityMeasure  : IsProbabilityMeasure (discreteUniform H) := by
   rw [isProbabilityMeasure_iff, discreteUniform_apply, Set.univ_inter, ENNReal.div_self]
-  . simp [Nat.pos_iff_ne_zero.mp Nat.card_pos]
+  . simp only [ne_eq, Nat.cast_eq_zero, Nat.pos_iff_ne_zero.mp Nat.card_pos, not_false_eq_true]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaSetDist.lean:52]: This simp is not preceding anything?

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean [hunk 7]
```diff
@@ -90,7 +90,7 @@ lemma isUniform_iff_uniform_dist {Ω : Type*} [mΩ : MeasurableSpace Ω] {μ: Me
           simp only [Set.Finite.mem_toFinset, Set.mem_inter_iff, AHf] at hx
           simp [hx]
         intro x hx
-        simp at hx
+        simp only [Set.Finite.mem_toFinset, Set.mem_inter_iff, not_and] at hx
         simpa
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaSetDist.lean:94]: This simp is preceding a simpa, which is flexible

Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaSetDist.lean]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean (hunk 6 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaSetDist.lean]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 5 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 8]
```diff
@@ -554,19 +562,21 @@ lemma condRuzsaDist'_def (X : Ω → G) (Y : Ω' → G) (W : Ω' → T) (μ : Me
...
       = ∑ w in FiniteRange.toFinset W, (μ' (W ⁻¹' {w})).toReal * d[X ; μ # Y ; (μ'[|W ← w])] := by
-  have : Measure.prod (dirac ()) (μ'.map W) ((Finset.univ (α := Unit) ×ˢ FiniteRange.toFinset W : Finset (Unit × T)) : Set (Unit × T))ᶜ = 0 := by
+  have : Measure.prod (dirac ()) (μ'.map W) ((Finset.univ (α := Unit) ×ˢ FiniteRange.toFinset W :
+    Finset (Unit × T)) : Set (Unit × T))ᶜ = 0 := by
     apply Measure.prod_of_full_measure_finset
     . simp
     rw [Measure.map_apply ‹_›]
     convert measure_empty
-    simp [← FiniteRange.range]
+    simp only [← FiniteRange.range, Set.preimage_compl, Set.preimage_range, Set.compl_univ]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:579]: followed by measurability

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 9]
```diff
@@ -604,18 +614,20 @@ lemma condRuzsaDist'_prod_eq_sum {X : Ω → G} {Y : Ω' → G} {W W' : Ω' →
...
+      exact fun ω h1 h2 ↦ ⟨⟨ω, h1⟩, ⟨ω, h2⟩⟩
     intro (t, t') _ ht
-    simp at ht
+    simp only [FiniteRange.mem_iff, Prod.mk.injEq, not_exists, not_and] at ht
     have : (fun a => (W' a, W a)) ⁻¹' {(t, t')} = ∅ := by
       ext ω
-      simp
+      simp only [Set.mem_preimage, Set.mem_singleton_iff, Prod.mk.injEq, Set.mem_empty_iff_false,
+        iff_false, not_and]
       exact ht ω
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:631]: A (better) alternative
```suggestion
      simpa using ht ω
```

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 10]
```diff
@@ -663,7 +675,7 @@ lemma condRuzsaDist'_eq_integral (X : Ω → G) {Y : Ω' → G} {W : Ω' → T}
   have : (μ'.map W) (FiniteRange.toFinset W : Set T)ᶜ = 0 := by
     rw [Measure.map_apply ‹_›]
     convert measure_empty
-    simp [← FiniteRange.range]
+    simp only [← FiniteRange.range, Set.preimage_compl, Set.preimage_range, Set.compl_univ]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:678]: followed by measurability

File: PFR/ForMathlib/FiniteRange.lean [hunk 11]
```diff
@@ -36,30 +36,24 @@ lemma finiteRange_of_finset {Ω G : Type*} (f: Ω → G) (A : Finset G) (h : ∀
...
-  rw [← Finset.mem_coe, ← FiniteRange.range X]
-  simp
+lemma FiniteRange.mem_iff {Ω G : Type*} (X : Ω → G) [FiniteRange X] (x : G) : x ∈ FiniteRange.toFinset X ↔ ∃ ω, X ω = x := by
+  simp_rw [← Finset.mem_coe, ← FiniteRange.range X, Set.mem_range]
 
 /-- Constants have finite range -/
 instance {Ω G : Type*} (c : G) : FiniteRange (fun _ : Ω ↦ c) := by
   apply finiteRange_of_finset _ { c }
-  simp
+  simp only [Finset.mem_singleton, implies_true]
```
Comment (YaelDillies) [inline PFR/ForMathlib/FiniteRange.lean:52]: not followed by anything

Comment (pitmonticone) [reply PFR/ForMathlib/FiniteRange.lean:52]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 10 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:676]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 9 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean]: Committed.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 8 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:579]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 12]
```diff
@@ -177,19 +183,20 @@ lemma rdist_of_inj  {H:Type*} [hH : MeasurableSpace H] [MeasurableSingletonClass
...
         ext x
         simp
-      rw [this, ← MeasureTheory.Measure.map_map (g := g) (f := f) (measurable_of_countable _) (measurable_of_countable _), ← MeasureTheory.Measure.map_map (measurable_of_countable _) hX, ← MeasureTheory.Measure.map_map (measurable_of_countable _) hY]
+      rw [this, ← MeasureTheory.Measure.map_map (g := g) (f := f) (measurable_of_countable _)
+        (measurable_of_countable _), ← MeasureTheory.Measure.map_map (measurable_of_countable _) hX,
+        ← MeasureTheory.Measure.map_map (measurable_of_countable _) hY]
       congr
-      convert MeasureTheory.Measure.map_prod_map _ _ (measurable_of_countable _) (measurable_of_countable _)
+      convert MeasureTheory.Measure.map_prod_map _ _ (measurable_of_countable _)
+        (measurable_of_countable _)
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:191]: Maybe you could introduce `lemma Measurable.of_countable {f : α → β} := measurable_of_countable _` (put it in `PFR.Mathlib.MeasureTheory.MeasurableSpace.Basic`) so that this can become
```suggestion
      convert Measure.map_prod_map _ _ .of_countable .of_countable
```

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 13]
```diff
@@ -876,7 +886,8 @@ lemma condRuzsaDist'_of_copy (X : Ω → G) {Y : Ω' → G} (hY : Measurable Y)
     simp only [A]
     rw [Measure.map_apply ‹_›]
     convert measure_empty
-    simp [← FiniteRange.range]
+    simp only [Finset.coe_union, ← FiniteRange.range, Set.compl_union, Set.preimage_inter,
+      Set.preimage_compl, Set.preimage_range, Set.compl_univ, Set.inter_empty]
     measurability
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:891]: When reviewing, I am not going to flag every single occurrence of the same issue. You should be proactive and fix them all when I show you one or two occurrences.

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean [hunk 14]
```diff
@@ -189,9 +190,11 @@ lemma rdist_set_add_const (A B: Set G) [Finite A] [Finite B]  [Nonempty A] [None
   . exact Set.Nonempty.to_subtype (Set.Nonempty.add (Set.nonempty_coe_sort.mp ‹_›) (Set.singleton_nonempty _))
   . exact Set.Nonempty.to_subtype (Set.Nonempty.add (Set.nonempty_coe_sort.mp ‹_›) (Set.singleton_nonempty _))
   . convert IsUniform.comp (A.toFinite.coe_toFinset.symm ▸ hUA_unif) (add_left_injective c) using 1
-    simp
+    simp only [Set.add_singleton, Set.image_add_right, Finset.image_add_right, Finset.coe_preimage,
+      Set.Finite.coe_toFinset]
   . convert IsUniform.comp (B.toFinite.coe_toFinset.symm ▸ hUB_unif) (add_left_injective c') using 1
-    simp
+    simp only [Set.add_singleton, Set.image_add_right, Finset.image_add_right, Finset.coe_preimage,
+      Set.Finite.coe_toFinset]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaSetDist.lean:197]: Similarly here I have previously flagged the same issue but you have only fixed the locations I explicitly flagged

File: PFR/WeakPFR.lean [hunk 15]
```diff
@@ -771,9 +773,9 @@ lemma single {Ω : Type u} [MeasurableSpace Ω] [DiscreteMeasurableSpace Ω] (μ
   contrapose! hz
   have : Disjoint {z} A := by simp [hz]
   replace this := measureReal_union (μ := μ) this (measurableSet_discrete _)
-  simp [hA] at this
+  simp only [singleton_union, hA] at this
   have h := measureReal_mono (μ := μ) (show insert z A ⊆ Set.univ by simp)
-  simp [this] at h
+  simp only [this, IsProbabilityMeasure.measureReal_univ, add_le_iff_nonpos_left] at h
   assumption
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:779]: Maybe this all can be `simpa [this] using h`? Not sure, you should try

File: PFR/WeakPFR.lean [hunk 16]
```diff
@@ -979,7 +983,7 @@ lemma dimension_of_shift {G: Type u} [AddCommGroup G]
   rcases ha with ⟨ b, ⟨ hb, hb'⟩ ⟩
   rw [Submodule.mem_map]
   use b - v, hshift b hb
-  simp [← hb']
+  simp only [map_sub, AddMonoidHom.coe_toIntLinearMap, AddSubgroup.coeSubtype, ← hb']
   abel
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:987]: abel is flexible

File: PFR/WeakPFR.lean [hunk 17]
```diff
@@ -993,15 +997,15 @@ lemma conclusion_transfers {A B : Set G}
   set f : G' → G := fun a ↦ (a : G) + x
   have hf : Function.Injective f := by
     intro y z hyz
-    simp [f] at hyz
+    simp only [add_left_inj, SetLike.coe_eq_coe, f] at hyz
     exact hyz
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1001]:
```suggestion
    simpa [f] using hyz
```

File: PFR/WeakPFR.lean [hunk 18]
```diff
@@ -1236,8 +1244,7 @@ theorem weak_PFR_int {A : Set G} [Finite A] (hnA : A.Nonempty) {K : ℝ} (hK : 0
   rw [← log_mul (by positivity) _]
   . apply log_le_log _ hA
     norm_cast
-    have : Nonempty (A-A) := by
-      exact Set.Nonempty.coe_sort (Set.Nonempty.sub hnA hnA)
+    have : Nonempty (A-A) := Set.Nonempty.coe_sort (Set.Nonempty.sub hnA hnA)
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1247]:
```suggestion
    have : Nonempty (A - A) := (hnA.sub hnA).coe_sort
```

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 13 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:891]: Yes yes, sure. I was going to do exactly that. I'm sorry for the delay. I'll probably finish later today or tomorrow.

File: PFR/WeakPFR.lean (hunk 15 above)
Comment (pitmonticone) [reply PFR/WeakPFR.lean:779]: Yes, it works. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 13 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:891]: Committed. Later today or tomorrow I'll give a global review to make sure your all your suggestions have been applied everywhere relevant.

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean (hunk 14 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaSetDist.lean:197]: Done. Thanks.

File: PFR/WeakPFR.lean (hunk 16 above)
Comment (pitmonticone) [reply PFR/WeakPFR.lean:987]: Done. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 12 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:191]: Sure, thanks a lot. I'm going to do it later today or tomorrow.

Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean]: Pushed the change right now: 

https://github.com/pitmonticone/Polynomial_Freiman-Ruzsa_Conjecture/blob/c8059aa7b032605a17f940034560455518aa3321/PFR/ForMathlib/Entropy/RuzsaDist.lean#L190

**Comment by pitmonticone** [comment]
Hopefully all necessary changes have been completed.

Thank you @YaelDillies for taking the time to review this PR!

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 19]
```diff
@@ -177,19 +183,19 @@ lemma rdist_of_inj  {H:Type*} [hH : MeasurableSpace H] [MeasurableSingletonClass
       have : φ ∘ (fun x ↦ x.1 - x.2) = g ∘ f := by
         ext x
         simp
-      rw [this, ← MeasureTheory.Measure.map_map (g := g) (f := f) (measurable_of_countable _) (measurable_of_countable _), ← MeasureTheory.Measure.map_map (measurable_of_countable _) hX, ← MeasureTheory.Measure.map_map (measurable_of_countable _) hY]
+      rw [this, ← MeasureTheory.Measure.map_map (g := g) (f := f) (measurable_of_countable _)
+        (measurable_of_countable _), ← MeasureTheory.Measure.map_map (measurable_of_countable _) hX,
+        ← MeasureTheory.Measure.map_map (measurable_of_countable _) hY]
       congr
-      convert MeasureTheory.Measure.map_prod_map _ _ (measurable_of_countable _) (measurable_of_countable _)
+      convert Measure.map_prod_map _ _ Measurable.of_countable Measurable.of_countable
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:190]: Using the new "anonymous dot notation",
```suggestion
      convert Measure.map_prod_map _ _ .of_countable .of_countable
```
This also makes sure you put `Measurable.of_countable` in the right namespace

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 20]
```diff
@@ -152,19 +152,25 @@ lemma ProbabilityTheory.IndepFun.rdist_eq [IsFiniteMeasure μ]
...
   change H[(fun x ↦ x.1 - x.2) ∘ ⟨X',Y' ⟩; ν] ≤ H[X'; ν] + H[Y'; ν]
-  apply (entropy_comp_le ν (by measurability) _).trans
-  exact entropy_pair_le_add hX' hY' ν
+  exact ((entropy_comp_le ν (by measurability) _).trans) (entropy_pair_le_add hX' hY' ν)
 
 /-- Applying an injective homomorphism does not affect Ruzsa distance. -/
 lemma rdist_of_inj  {H:Type*} [hH : MeasurableSpace H] [MeasurableSingletonClass H] [AddCommGroup H]
-  [MeasurableSub₂ H] [MeasurableAdd₂ H] [Countable H] (hX: Measurable X) (hY: Measurable Y) (φ: G →+ H) (hφ: Function.Injective φ) [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']: d[φ ∘ X ; μ # φ ∘ Y ; μ'] = d[X ; μ # Y ; μ'] := by
+  [MeasurableSub₂ H] [MeasurableAdd₂ H] [Countable H] (hX: Measurable X) (hY: Measurable Y)
+  (φ: G →+ H) (hφ: Function.Injective φ) [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']:
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:172]: Here and elsewhere
```suggestion
  (φ : G →+ H) (hφ : Injective φ) [IsProbabilityMeasure μ] [IsProbabilityMeasure μ' ]:
```
You will possibly need to `open Function`

File: PFR/WeakPFR.lean [hunk 21]
```diff
@@ -771,10 +773,9 @@ lemma single {Ω : Type u} [MeasurableSpace Ω] [DiscreteMeasurableSpace Ω] (μ
   contrapose! hz
   have : Disjoint {z} A := by simp [hz]
   replace this := measureReal_union (μ := μ) this (measurableSet_discrete _)
-  simp [hA] at this
+  simp only [singleton_union, hA] at this
   have h := measureReal_mono (μ := μ) (show insert z A ⊆ Set.univ by simp)
-  simp [this] at h
-  assumption
+  simpa [this] using h
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:778]:
```suggestion
  simpa [this] using measureReal_mono (μ := μ) (show insert z A ⊆ Set.univ by simp)
```

File: PFR/WeakPFR.lean [hunk 22]
```diff
@@ -993,15 +996,14 @@ lemma conclusion_transfers {A B : Set G}
...
+    simpa [f] using hyz
   have hA' : A = f '' A' := by
     simp_rw [hA, ← Set.image_vadd, Set.image_image, vadd_eq_add, f, add_comm]; rfl
   rcases hB with ⟨ y, hB ⟩
   set g : G' → G := fun a ↦ (a : G) + y
   have hg : Function.Injective g := by
     intro y z hyz
-    simp [g] at hyz
+    simp only [add_left_inj, SetLike.coe_eq_coe, g] at hyz
     exact hyz
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1007]:
```suggestion
    simpa [g] using hyz
```

Comment (YaelDillies) [inline PFR/WeakPFR.lean:1007]: or maybe even
```suggestion
  have hg : Injective g := by simp [Injective, g]
```
and similarly for `f` above

File: PFR/WeakPFR.lean [hunk 23]
```diff
@@ -1163,11 +1169,11 @@ lemma weak_PFR_asymm (A B : Set G) [Finite A] [Finite B] (hA : A.Nonempty) (hB :
     . rw [hN]
       exact  QuotientAddGroup.subsingleton_quotient_top
     infer_instance
-  simp [this] at hdim
+  simp only [this, Nat.cast_one, log_one, zero_add] at hdim
   rw [← le_div_iff' (by positivity)] at hdim
   convert LE.le.trans ?_ hdim using 1
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:1174]:
```suggestion
  convert le_trans ?_ hdim using 1
```

File: PFR/WeakPFR.lean (hunk 21 above)
Comment (pitmonticone) [reply PFR/WeakPFR.lean:778]: Done. Thanks.

File: PFR/WeakPFR.lean (hunk 22 above)
Comment (pitmonticone) [reply PFR/WeakPFR.lean:1006]: Done. Thanks.

**Comment by YaelDillies** [comment]
Note that you will have to fix conflict with the master branch

**Comment by pitmonticone** [comment]
> Note that you will have to fix conflict with the master branch

Sure. Thanks.

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 19 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:190]: I'm not at all sure how this is supposed to work exactly. What's the right namespace in `PFR.Mathlib.MeasureTheory.MeasurableSpace.Basic`? 

I've tried but I can't make it work. I'm sorry.

**Comment by pitmonticone** [comment]
> Note that you will have to fix conflict with the master branch

Done. I just can't make the new "anonymous dot notation" work...

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 19 above)
Comment (YaelDillies) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:190]: https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Defs.html#Measurable shows it's in the root namespace, so `Measurable.of_countable` should also be in the root namespace

File: PFR/ForMathlib/FiniteRange.lean [hunk 24]
```diff
@@ -36,19 +36,15 @@ lemma finiteRange_of_finset {Ω G : Type*} (f: Ω → G) (A : Finset G) (h : ∀
...
 lemma FiniteRange.range {Ω G : Type*} (X : Ω → G) [hX : FiniteRange X] :
-    Set.range X = FiniteRange.toFinset X := by
-  simp [FiniteRange.toFinset]
+    Set.range X = FiniteRange.toFinset X := by simp [FiniteRange.toFinset]
 
 lemma FiniteRange.mem {Ω G : Type*} (X : Ω → G) [FiniteRange X] (ω : Ω) :
     X ω ∈ FiniteRange.toFinset X := by
-  rw [← Finset.mem_coe, ← FiniteRange.range X]
-  simp
+    simp_rw [← Finset.mem_coe, ← FiniteRange.range X, Set.mem_range, exists_apply_eq_apply]
```
Comment (YaelDillies) [inline PFR/ForMathlib/FiniteRange.lean:43]:
```suggestion
  simp_rw [← Finset.mem_coe, ← FiniteRange.range X, Set.mem_range, exists_apply_eq_apply]
```

File: PFR/ForMathlib/Entropy/RuzsaDist.lean (hunk 19 above)
Comment (pitmonticone) [reply PFR/ForMathlib/Entropy/RuzsaDist.lean:190]: Isn't it already in the root namespace? No specific namespace is declared in this file https://github.com/pitmonticone/Polynomial_Freiman-Ruzsa_Conjecture/blob/e6d5c0ce3546128beeafefd356777a5a110ba104/PFR/Mathlib/MeasureTheory/MeasurableSpace/Basic.lean#L24-L26

File: PFR/ForMathlib/FiniteRange.lean (hunk 24 above)
Comment (pitmonticone) [reply PFR/ForMathlib/FiniteRange.lean]: Thanks

File: PFR/WeakPFR.lean [hunk 25]
```diff
@@ -618,25 +618,25 @@ end dim
...
-    · simp [g, h, Function.surjInv_eq hs n]
+    · simp [g, h, surjInv_eq hs n]
   have hg : g 0 = 0 := by simp [g]
   have hfg : (f ∘ g) 0 = 0 := by simp [hf, hg]
   intro F
   use Finsupp.mapRange g hg F
   rw [← Finsupp.mapRange_comp (h := hfg)]
   convert Finsupp.mapRange_id F
-  convert Function.RightInverse.id this
+  convert RightInverse.id this
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:639]:
```suggestion
  convert this.id
```

File: PFR/WeakPFR.lean [hunk 26]
```diff
@@ -851,7 +851,7 @@ lemma weak_PFR_asymm_prelim (A B : Set G) [Finite A] [Finite B] (hnA : A.Nonempt
 
     have ha : φ'.toFun ∘ UA = e.toFun ∘ X := by ext x; exact (he (UA x)).symm
     have hb : φ'.toFun ∘ UB = e.toFun ∘ Y := by ext x; exact (he (UB x)).symm
-    have he_inj : Function.Injective e.toFun := AddEquiv.injective e
+    have he_inj : Injective e.toFun := AddEquiv.injective e
```
Comment (YaelDillies) [inline PFR/WeakPFR.lean:854]:
```suggestion
    have he_inj : Injective e := e.injective
```
